US04510141
using 21.80 g (0.080 mol) of 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid and 35.70 g (0.360 mol) of cyclohexylamine there is obtained 5-cyclohexyl-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid and the methyl ester thereof which, after recrystallisation from methylene chloride/isopropanol, melts at 170°-176°.

reactant | 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.080 mol, 21.80 g | ClC1=NC=CC=C1N1N=C(N=C1CCl)C(=O)O | C9H6Cl2N4O2
reactant | cyclohexylamine | 0.360 mol, 35.70 g | C1(CCCCC1)N | C6H13N
product | 5-cyclohexyl-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid | C1(CCCCC1)N1CC=2N(C3=C1N=CC=C3)N=C(N2)C(=O)O | C15H17N5O2
